US09216173B2
To a solution of tert-butyl 4-[(6-{[5-({(1R,2S)-2-[(tert-butoxycarbonyl)amino]cyclohexyl}amino)-2-cyanopyridin-3-yl]amino}pyridin-2-yl)methyl]piperazine-1-carboxylate (90 mg, 0.15 mmol) in dichloromethane (1.5 mL) was added trifluoroacetic acid (0.17 mL, 2.2 mmol) and the reaction mixture was stirred for 1 hour at room temperature. The reaction was then concentrated under reduced pressure to afford 5-{[(1R,2S)-2-aminocyclohexyl]amino}-3-{[6-(piperazin-1-ylmethyl)pyridin-2-yl]amino}pyridine-2-carbonitrile. The material was used in the next step without further purification. MS ESI calc'd for C22H31N8 [M+H]+ 407. found 407.

reactant | tert-butyl 4-[(6-{[5-({(1R,2S)-2-[(tert-butoxycarbonyl)amino]cyclohexyl}amino)-2-cyanopyridin-3-yl]amino}pyridin-2-yl)methyl]piperazine-1-carboxylate | 0.15 mmol, 90 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC=1C=C(C(=NC1)C#N)NC1=CC=CC(=N1)CN1CCN(CC1)C(=O)OC(C)(C)C | C32H46N8O4
reactant | trifluoroacetic acid | 2.2 mmol, 0.17 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 5-{[(1R,2S)-2-aminocyclohexyl]amino}-3-{[6-(piperazin-1-ylmethyl)pyridin-2-yl]amino}pyridine-2-carbonitrile | N[C@@H]1[C@@H](CCCC1)NC=1C=C(C(=NC1)C#N)NC1=NC(=CC=C1)CN1CCNCC1 | C22H30N8
